US04259489
2,3-Dicyano-5-chloro-6-(m-bromophenyl)pyrazine (1.15 g; 0.0036 mole) was dissolved in 20 ml of tetrahydrofuran. The solution was cooled to 0° C., and 0.50 g of a 70% aqueous solution of ethylamine was added. The mixture was worked up in the same way as in Example 13, and recrystallized from ethanol to afford 0.95 g (yield 80%) of 2,3-dicyano-5-ethylamino-6-(m-bromophenyl)pyrazine.

reactant | 2,3-Dicyano-5-chloro-6-(m-bromophenyl)pyrazine | 0.0036 mole, 1.15 g | C(#N)C1=NC(=C(N=C1C#N)Cl)C1=CC(=CC=C1)Br | C12H4BrClN4
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-dicyano-5-ethylamino-6-(m-bromophenyl)pyrazine | 0.95 g, yield 80% | C(#N)C1=NC(=C(N=C1C#N)NCC)C1=CC(=CC=C1)Br | C14H10BrN5
